US07339073B2
To a solution of 5-chlorolevulinic acid methyl ester (10 g) in 1-propanol (50 ml) and concentrated sulfuric acid was added (0.5 ml) and the reaction mixture was refluxed for 3 h. Thereafter, the methanol and the excess 1-propanol were distilled in vacuo. Dichloromethane was added to the residue and the organic layer was washed with saturated aqueous sodium hydrogen carbonate and water. Drying of the organic layer with Na2SO4 followed by distillation of the solvent in vacuo yielded 5.4 g (quant.) 5-chlorolevulinic acid propyl ester. The NMR data agreed with the data for the product obtained according to Example 4.

reactant | 5-chlorolevulinic acid methyl ester | 10 g | COC(CCC(=O)CCl)=O | C6H9ClO3
reactant | 1-propanol | 50 ml | C(CC)O | C3H8O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-chlorolevulinic acid propyl ester | 5.4 g | C(CC)OC(CCC(=O)CCl)=O | C8H13ClO3
